US08236826B2
Production of methyl 4-[5-(4-trifluoromethylbenzyl-amino)pyridin-2-yloxy]benzoate
Methyl 4-{5-[(4-trifluoromethylbenzylidene)-amino]pyridin-2-yloxy}benzoate (2.64 g, 6.59 mmol) was suspended in methanol (25 mL), and to the resulting suspension was slowly added sodium borohydride (1.25 g, 33.0 mmol). The resulting solution was stirred at room temperature for 3 days. The reaction solution was concentrated under reduced pressure. To the residue was added ethyl acetate, and washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was washed with diethyl ether, to thereby yield 2.65 g of the title compound.

reactant | Methyl 4-{5-[(4-trifluoromethylbenzylidene)-amino]pyridin-2-yloxy}benzoate | 6.59 mmol, 2.64 g | FC(C1=CC=C(C=NC=2C=CC(=NC2)OC2=CC=C(C(=O)OC)C=C2)C=C1)(F)F | C21H15F3N2O3
reactant | sodium borohydride | 33.0 mmol, 1.25 g | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | methyl 4-[5-(4-trifluoromethylbenzyl-amino)pyridin-2-yloxy]benzoate | FC(C1=CC=C(CNC=2C=CC(=NC2)OC2=CC=C(C(=O)OC)C=C2)C=C1)(F)F | C21H17F3N2O3
